US06821965B1
N-(3-dimethylaminophenyl)-3-[4-(2-methoxyethoxy)benzamido]-4-methylbenzamide
2-Bromoethyl methyl ether (0.033 ml) was added to a stirred suspension of N-(3-dimethylaminophenyl)-3-(4-hydroxybenzamido)4-methylbenzamide (0.9 g) and anhydrous potassium carbonate (0.064 g) in DMF (10 ml) and the resultant mixture was stirred at 80° C. for 5 hours. The mixture was cooled to ambient temperature and partitioned between ethyl acetate and water. The organic phase was washed with a saturated aqueous sodium bicarbonate solution and with a saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated. The residue was triturated under diethyl ether. There was thus obtained the title compound as a solid (0.073 g); NMR Spectrum: (DMSOd6) 2.28 (s, 3H), 2.87 (s, 6H), 3.31 (s, 3H), 3.67 (m, 2H), 4.18 (m, 2H), 6.43, (d, 1H) 7.12 (m, 5H), 7.37 (d, 1H), 7.78 (d, 1H), 7.97 (m, 3H), 9.87 (s, 1H), 9.96 (s, 1H); Mass Spectrum: M+H+ 448.

reactant | 2-Bromoethyl methyl ether | 0.033 ml | COCCBr | C3H7BrO
reactant | N-(3-dimethylaminophenyl)-3-(4-hydroxybenzamido)4-methylbenzamide | 0.9 g | CN(C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)O)=O)=O)C | C23H23N3O3
reactant | potassium carbonate | 0.064 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(3-dimethylaminophenyl)-3-[4-(2-methoxyethoxy)benzamido]-4-methylbenzamide | 0.073 g | CN(C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCCOC)=O)=O)C | C26H29N3O4
